US06914074B2
1-Bromo-6-(4-hydroxyphenyl)-2-naphthol
To a solution of 6-(4-hydroxyphenyl)-2-naphthol (4.02 g, 17.0 mmol) in acetonitrile (150 mL) at 0° C. was added NBS (3.03 g, 17.0 mmol). The reaction was stirred at 0° C. for 3 hr and then poured into water (200 mL) and extracted with ethyl acetate (3×300 mL). The combined organic layers were washed with water, dried over sodium sulfate, filtered, evaporation of the solvent, and purification by silica column chromatography (20% ethyl acetate—hexanes) yielded 5.33 g (100%) of the title compound as a tan solid. The title compound was further purified by reverse phase HPLC to yield a white solid: mp 208-210° C.; 1H NMR (DMSO-d6): δ 6.89 (2H, d, J=8.47 Hz), 7.28 (1H, d, J=8.80 Hz), 7.63 (2H, d, J=8.50 Hz), 7.85 (2H, d, J=8.84 Hz), 8.02-8.06 (2H, m), 9.60 (1H, s), 10.54 (1H, s); MS (ESI) m/z 313/315 (M−H)−.

reactant | 6-(4-hydroxyphenyl)-2-naphthol | 17.0 mmol, 4.02 g | OC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)O | C16H12O2
reactant | NBS | 17.0 mmol, 3.03 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 200 mL | O | H2O
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 1-Bromo-6-(4-hydroxyphenyl)-2-naphthol | 5.33 g, 100% | BrC1=C(C=CC2=CC(=CC=C12)C1=CC=C(C=C1)O)O | C16H11BrO2
